US06124283
(R)-N-[8-(4-Methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]-4-ethylbenzamide
To an ice-cooled solution of (R)-2-amino-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydronaphthalene (110 mg, 0.46 mmol) and triethylamine (95 μL, 0.68 mmol) in methylene chloride (20 mL) was added dropwise 4-ethylbenzoyl chloride (81 mg, 0.48 mmol) in methylene chloride (5 mL). After the addition the reaction was allowed to stir at ambient temperature for 15 min and then washed with water. The phases were separated and the organic phase was dried (Na2SO4), filtered and evaporated in vacuo to give a crude product which was purified on a silica gel column using chloroform/ethanol saturated with NH3 (100:4) as the eluent. Yield: 120 mg (66%) of the title compound as white crystals: mp 177-178° C.; [α]21D -43° (c 1.0, chloroform); EIMS (70 eV) m/z (relative intensity) 377 (27, M+).

reactant | (R)-2-amino-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydronaphthalene | 0.46 mmol, 110 mg | N[C@H]1CC2=C(C=CC=C2CC1)N1CCN(CC1)C | C15H23N3
reactant | triethylamine | 0.68 mmol, 95 μL | C(C)N(CC)CC | C6H15N
reactant | 4-ethylbenzoyl chloride | 0.48 mmol, 81 mg | C(C)C1=CC=C(C(=O)Cl)C=C1 | C9H9ClO
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | (R)-N-[8-(4-Methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]-4-ethylbenzamide | CN1CCN(CC1)C=1C=CC=C2CC[C@H](CC12)NC(C1=CC=C(C=C1)CC)=O | C24H31N3O
